US07888364B2
50 mg 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to Boc-piperazine via Procedure G. The organic layer was evaporated to dryness and treated with TFA. After 1 h the TFA was removed and the crude was purified on reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(piperazine-1-carbonyl)benzamide. MS (Q1) 455 (M)+.

reactant | 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 50 mg | ClC=1C=C(C(=O)O)C=CC1C(NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1)=O | C19H12Cl2N2O3
reactant | Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(piperazine-1-carbonyl)benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)C(=O)N1CCNCC1 | C23H20Cl2N4O2
